US04962202
(1) 6,7-Dihydro-6-p-methoxybenzylthiO-5H-pyrrolo[2,1-c]-1,2,4-triazole
To a solution of 2-ethoxy-4-p-methoxybenzylthio-1-pyrroline (1.06 g) in ethanol (50 ml) there was added 0.36 g of formylhydrazine and heated to 80° C under argon atmosphere while stirring. After 1.5 hours, 0.24 g of formylhydrazine was further added and stirred under heating for 30 minutes at the same temperature. Then, 0.6 g of acetic acid was added, stirred for 30 minutes at that temperature and then cooled to room temperature. To the cooled product were added ethyl acetate and 5% aqueous solution of sodium carbonate to dis&ribute the product between these two liquids. The resulting organic phase was washed with saturated NaCl aqueous solution, dried over Na2SO4 and distilled off the solvent under reduced pressure to obtain the objective product.

reactant | 2-ethoxy-4-p-methoxybenzylthio-1-pyrroline | 1.06 g | C(C)OC1=NCC(C1)SCC1=CC=C(C=C1)OC | C14H19NO2S
reactant | formylhydrazine | 0.36 g | C(=O)NN | CH4N2O
reactant | formylhydrazine | 0.24 g | C(=O)NN | CH4N2O
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dihydro-6-p-methoxybenzylthiO-5H-pyrrolo[2,1-c]-1,2,4-triazole | COC1=CC=C(CSC2CC3=NN=CN3C2)C=C1 | C13H15N3OS
